US08877801B2
To a solution of (E)-methyl 3-(4-((2-(2-isopropylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylate (30 mg, 0.065 mmol) in DCM (1.5 mL) at 0° C. was added BBr3 (1.0 M in heptane, 0.196 mL, 0.196 mmol) dropwise. After 1 h at 0° C. the reaction was quenched with sat. aq. NaHCO3 and extracted with EtOAc, the combined organic layers were passed through a phase separator and concentrated in vacuo to afford the crude product which was purified by column chromatography (SiO2, 0-30% EtOAc/heptane) to afford (E)-methyl 3-(4-((6-hydroxy-2-(2-isopropylphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylate (25.8 mg, 0.058 mmol, 89% yield). LC/MS (m/z, M-H): 443.0.

reactant | (E)-methyl 3-(4-((2-(2-isopropylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylate | 0.065 mmol, 30 mg | C(C)(C)C1=C(C=CC=C1)C1=C(C2=C(S1)C=C(C=C2)OC)OC2=CC=C(C=C2)/C=C/C(=O)OC | C28H26O4S
reactant | BBr3 | 0.196 mmol, 1.0 M, 0.196 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
product | (E)-methyl 3-(4-((6-hydroxy-2-(2-isopropylphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylate | 0.058 mmol, 25.8 mg, 89% yield | OC=1C=CC2=C(SC(=C2OC2=CC=C(C=C2)/C=C/C(=O)OC)C2=C(C=CC=C2)C(C)C)C1 | C27H24O4S
